US06291452B1
A mixture of (3RS)-3-amino-5-(2-fluorophenyl)-9-isopropyl-2,3-dihydro-1H-1,4-benzodiazepin-2-one (1.5 g), a catalytic amount of hydroxylamine hydrochloride, triethylamine (731 mg) and di-tert-butyl dicarbonate (1.57 g) in methylene chloride (30 ml) was stirred at room temperature for 1.5 hours. Chloroform and water were added to the reaction mixture. The separated organic layer was washed with water twice and dried over magnesium sulfate. The solvent was evaporated in vacuo to afford a crude paste, which was dissolved in diisopropyl ether, and allowed to stand at room temperature to afford a pale yellow powder. The powder was collected by filtration and washed with diisopropyl ether to afford (3RS)-3-tert-butoxycarbonylamino-5-(2-fluorophenyl)-9-isopropyl-2,3-dihydro-1H-1,4-benzodiazepin-2-one (1.55 g, 78.1%).

reactant | (3RS)-3-amino-5-(2-fluorophenyl)-9-isopropyl-2,3-dihydro-1H-1,4-benzodiazepin-2-one | 1.5 g | NC1C(NC2=C(C(=N1)C1=C(C=CC=C1)F)C=CC=C2C(C)C)=O | C18H18FN3O
reactant | hydroxylamine hydrochloride | Cl.NO
reactant | triethylamine | 731 mg | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 1.57 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | water | O | H2O
solvent | Chloroform | C(Cl)(Cl)Cl | CHCl3
product | (3RS)-3-tert-butoxycarbonylamino-5-(2-fluorophenyl)-9-isopropyl-2,3-dihydro-1H-1,4-benzodiazepin-2-one | 1.55 g, 78.1% | C(C)(C)(C)OC(=O)NC1C(NC2=C(C(=N1)C1=C(C=CC=C1)F)C=CC=C2C(C)C)=O | C23H26FN3O3
